US07737144B2
Chlorouracil (1)
Phosphoryl chloride (55 ml) is carefully added to barbituric acid (10 g, 78.1 mmol) at 0° C. Water (1.7 ml) is then added dropwise such that the temperature does not exceed 5° C. The mixture is boiled under reflux for 5 h and, after it has cooled down, poured onto ice. The product is extracted with ethyl acetate (3×100 ml) and dried (Na2 SO4). The mixture is filtered and the solvent is distilled off in vacuo.

reactant | Phosphoryl chloride | 55 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | barbituric acid | 78.1 mmol, 10 g | N1C(=O)NC(=O)CC1=O | C4H4N2O3
solvent | Water | 1.7 ml | O | H2O
product | Chlorouracil | ClN1C(NC=CC1=O)=O | C4H3ClN2O2
